US06194409B1
102d. N-Ethoxycarbonylmethyl-N-tert.-butoxycarbonyl-2-(R)-amino-3-(4-methoxyphenyl)-propionic acid
N-Ethoxycarbonylmethyl-N-tert.-butoxycarbonyl-2-(R)-amino-3-(4-methoxyphenyl)-propionic acid benzyl ester (1.50 g) were dissolved in 40 mL of methanol and hydrogenated for 4 h at room temperature using 0.3 g palladium on charcoal (10%) as catalyst. Filtration followed by concentration in vacuo affords 1.05 g (87%) of the title compound as a colorless oil. (−)-APCI-MS: 381 ([M-H]−).

reactant | N-Ethoxycarbonylmethyl-N-tert.-butoxycarbonyl-2-(R)-amino-3-(4-methoxyphenyl)-propionic acid benzyl ester | 1.50 g | C(C1=CC=CC=C1)OC([C@@H](CC1=CC=C(C=C1)OC)N(C(=O)OC(C)(C)C)CC(=O)OCC)=O | C26H33NO7
solvent | methanol | 40 mL | CO | CH4O
catalyst | palladium on charcoal | 0.3 g | [Pd] | Pd
product | N-Ethoxycarbonylmethyl-N-tert.-butoxycarbonyl-2-(R)-amino-3-(4-methoxyphenyl)-propionic acid | 1.05 g, 87% | C(C)OC(=O)CN([C@@H](C(=O)O)CC1=CC=C(C=C1)OC)C(=O)OC(C)(C)C | C19H27NO7
